USH0000992
Using the procedure above, 0.5 g of 3,6-difluorophthalic anhydride, 0.1 g of copper (II) oxide and 10 mL of NMP were combined and heated to 150° C. for 12 h. GCMS analysis of the reaction mixture indicated complete consumption of the starting material and formation of 1,4-difluorobenzene as the major product. A small amount of 2,2',5,5'-tetrafluorobiphenyl was formed as a by-product.

reactant | 3,6-difluorophthalic anhydride | 0.5 g | FC1=C2C(C(=O)OC2=O)=C(C=C1)F | C8H2F2O3
catalyst | copper (II) oxide | 0.1 g | [Cu]=O
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 2,2',5,5'-tetrafluorobiphenyl | FC1=C(C=C(C=C1)F)C1=C(C=CC(=C1)F)F | C12H6F4
